US09169215B2
A light yellow solution of 3-(cyclopentylamino)-2-(2-fluoro-4-methoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile (199 mg, 0.586 mmol) in DMSO (100 mL) was stored for several days at RT. After 2 days, it became a light brown solution and this solution was stored for 50 days. Then, it was poured into water (300 mL) and the organic compound was extracted into ethyl acetate (3×50 mL). The combined organic extracts were washed with brine solution and dried over anhydrous MgSO4. Filtration and concentration gave the crude yellow solid which was purified using an ISCO (80 g) column chromatography eluting with 0-50% ethyl acetate in hexanes. The desired fractions were combined and the solvent was removed under vacuum to isolate 32 mg (15.4% yield) of (E)-5-amino-1-(1-(cyclopentylimino)-2-(2-fluoro-4-methoxyphenyl)-2-oxo ethyl)-1H-pyrazole-4-carbonitrile as an yellow solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.45-1.53 (br m, 4H), 1.53-1.85 (br m, 4H), 3.73 (p, 1H), 3.89, (s, 3H), 6.95-7.10 (m, 2H), 7.72 (s, 1H), 7.92 (t, J=8.5 Hz, 1H), 8.11 (br s, 2H). LC/MS calcd. for C18H18FN5O2 (m/e) 355.371, obsd. 356.2 (M+H, ES+).

reactant | 3-(cyclopentylamino)-2-(2-fluoro-4-methoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | 0.586 mmol, 199 mg | C1(CCCC1)NC1=C(NC=2N1N=CC2C#N)C2=C(C=C(C=C2)OC)F | C18H18FN5O
reactant | water | 300 mL | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | (E)-5-amino-1-(1-(cyclopentylimino)-2-(2-fluoro-4-methoxyphenyl)-2-oxo ethyl)-1H-pyrazole-4-carbonitrile | 32 mg, 15.4% yield | NC1=C(C=NN1/C(/C(=O)C1=C(C=C(C=C1)OC)F)=N/C1CCCC1)C#N | C18H18FN5O2
